US04337197
(C) (3S-trans)-4-Methyl-3-(phenylacetyl)-1-(phenylmethoxy)-2-azetidinone
To a cold (0° C.) solution of N2 -(phenylacetyl)-N-(phenylmethoxy)-L-threoninamide (7.5 g) in dry tetrahydrofuran (200 ml) is added diethylazodicarboxylate (4.2 g) followed by triphenylphosphine (6.34 g). The reaction mixture is stirred for about 16 hours at 26° C. under nitrogen. The solvent is then removed, and the residue chromatographed on silica gel (ether/hexane) to afford the title compound (2.0 g) white solids. Recrystallization from chloroform/hexane affords a purified sample, melting point 97°-99° C.

reactant | N2 (phenylacetyl)-N-(phenylmethoxy)-L-threoninamide | 7.5 g | N#N.C1(=CC=CC=C1)CC(=O)N[C@@H]([C@H](O)C)C(=O)NOCC1=CC=CC=C1
reactant | diethylazodicarboxylate | 4.2 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 6.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (3S-trans)-4-Methyl-3-(phenylacetyl)-1-(phenylmethoxy)-2-azetidinone | 2.0 g | C[C@@H]1[C@H](C(N1OCC1=CC=CC=C1)=O)C(CC1=CC=CC=C1)=O | C19H19NO3
